US08217043B2
2-(S)-{[4-(4-Fluoro-benzyl)-1-hydroxy-3-oxo-3,4-dihydro-4,4a-diaza-fluorene-2-carbonyl]-amino}-propionic acid
A mixture of 4-(4-fluoro-benzyl)-1-hydroxy-3-oxo-3,4-dihydro-4,4a-diaza-fluorene-2-carboxylic acid methyl ester (110 mg), L-alanine (268 mg), NaOMe (146 mg) in 2-methoxyethanol (10 mL) was refluxed for 6 h; subsequently, the reaction was cooled and solvent was removed by rotovaping; the residue was dissolved in water and then acidified with 2 M HCl solution; the precipitates were collected via filtration, washed with water, dried, and then purified with column (eluent: DCM/EtOAc, 10/1 (v/v), with 0.5% acetic acid) to give the desired product (78 mg). ESI (m/z): 424 (M+H)+.

reactant | 4-(4-fluoro-benzyl)-1-hydroxy-3-oxo-3,4-dihydro-4,4a-diaza-fluorene-2-carboxylic acid methyl ester | 110 mg | COC(=O)C1=C(C2=CC3=CC=CC=C3N2N(C1=O)CC1=CC=C(C=C1)F)O | C20H15FN2O4
reactant | L-alanine | 268 mg | N[C@@H](C)C(=O)O | C3H7NO2
reactant | NaOMe | 146 mg | C[O-].[Na+]
solvent | 2-methoxyethanol | 10 mL | COCCO | C3H8O2
product | 2-(S)-{[4-(4-Fluoro-benzyl)-1-hydroxy-3-oxo-3,4-dihydro-4,4a-diaza-fluorene-2-carbonyl]-amino}-propionic acid | 78 mg | FC1=CC=C(CN2C(C(=C(C3=CC4=CC=CC=C4N23)O)C(=O)N[C@H](C(=O)O)C)=O)C=C1 | C22H18FN3O5
